US06380387B1
To a suspension of N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine (1.006 mmol, 420 mg) and sodium bicarbonate (5.03 mmol, 422 mg) in DMF (8 mL) was added 1-chloroethyl acetate (5.03 mmol, 616 mg) at room temperature. The reaction mixture was stirred for 48 h. Then, it was poured into water (50 mL) and was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with water (2×50 mL) and brine solution (100 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate gave the crude product which was purified by silica gel chromatography using a Biotage (40s) column to obtain 390 mg (77% yield) of N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester as an amorphous white solid. ES-HRMS m/e calcd for C25H33N3O8 (M+Na) 526.2160, found 526.2143.

reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 1.006 mmol, 420 mg | CC(C)(OC(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O)C | C21H27N3O6
reactant | sodium bicarbonate | 5.03 mmol, 422 mg | C([O-])(O)=O.[Na+]
reactant | 1-chloroethyl acetate | 5.03 mmol, 616 mg | C(C)(=O)OC(C)Cl | C4H7ClO2
reactant | water | 50 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[(1,1-dimethylethoxy)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester | 390 mg, 77% yield | C(C)(=O)OC(C)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C25H33N3O8
